Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nephrolithiasis
 
Major Surgical or Invasive Procedure:
Difficult right PCNL, right antegrade nephrostogram, right 
antegrade ureteroscopy, right antegrade ureteral stent 
placement, right PCNL for stone greater than 2cm, Removal of 
right nephrostomy tube

 
History of Present Illness:
___ y/o with bilateral stags s/p R PCNL. There is some residual 
stone that will require interval right URS 
 
Past Medical History:
Hypertension
Hemorrhagic CVA in ___ ___ years ago with residual LUE weakness 
Bilateral staghorn renal calculi s/p bilateral percutaneous
nephrostomy tubes
Trauma to right eye as a ___ year old 
 
Social History:
___
Family History:
Father and brother with renal failure.
 
Physical Exam:
WdWn, NAD, AVSS
Interactive, cooperative
Abdomen soft, appropriately tender along incisions
Incisions otherwise c/d/I at flank. no hematoma appreciated at 
PCN site. 
Extremities w/out edema or pitting and there is no reported calf 

pain to deep palpation

 
Pertinent Results:
___ 06:55AM BLOOD WBC-6.9 RBC-2.95* Hgb-9.4* Hct-30.8* 
MCV-104* MCH-31.9 MCHC-30.5* RDW-15.4 RDWSD-59.6* Plt ___

___ 04:00PM BLOOD WBC-8.3 RBC-3.16* Hgb-9.8* Hct-31.7* 
MCV-100* MCH-31.0 MCHC-30.9* RDW-15.2 RDWSD-55.5* Plt ___

___ 06:55AM BLOOD Glucose-97 UreaN-20 Creat-2.5* Na-137 
K-4.7 Cl-98 HCO3-22 AnGap-17

___ 04:00PM BLOOD Glucose-105* UreaN-22* Creat-2.1* Na-138 
K-4.2 Cl-101 HCO3-23 AnGap-14

___ 1:14 pm URINE     Site: CYSTOSCOPY      BLADDER URINE. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ for 
nephrolithiasis management and underwent cifficult right PCNL, 
right antegrade nephrostogram, right antegrade ureteroscopy, 
right antegrade ureteral stent placement, right PCNL for stone 
greater than 2 cm. He tolerated the procedure well and recovered 
in the PACU before transfer to the general surgical floor. See 
the dictated operative note for full details. Overnight, the 
patient was hydrated with intravenous fluids and received 
appropriate perioperative prophylactic antibiotics. On POD1, 
catheter was removed.  At discharge on POD1, patient’s pain was 
controlled with oral pain medications, tolerating regular diet, 
ambulating without assistance, and voiding without difficulty.  
Mr. ___ was explicitly advised to follow up as directed as 
the indwelling ureteral stent must be removed and or exchanged 
and additional procedures necessary to address residual stone 
burden. 

 
Medications on Admission:
None

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Oxybutynin 5 mg PO TID:PRN bladder spasms 
RX *oxybutynin chloride 5 mg ONE tablet(s) by mouth Q8hrs Disp 
#*15 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ONE tablet(s) by mouth Q6hrs Disp #*10 Tablet 
Refills:*0 
4.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin [Flomax] 0.4 mg ONE capsule(s) by mouth at 
bedtime Disp #*30 Capsule Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
NEPHROLITHIASIS; RIGHT, UPJ, complex, >2cm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month;  this may be related to the passage of stone fragments or 
the indwelling ureteral stent.  You may aslo experience some 
pain associated with spasm of your ureter.

-The kidney stone may or may not have been removed AND/or there 
may be fragments/others still in the process of passing.

-Ureteral stents MUST be removed or exchanged and therefore it 
is IMPERATIVE that you follow-up as directed. 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  HOLD ASPIRIN and aspirin containing products for one 
week unless otherwise advised.

-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control. For pain 
control, try TYLENOL FIRST, then ibuprofen, and then take the 
narcotic pain medication as prescribed if additional pain relief 
is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

•AVOID lifting/pushing/pulling items heavier than 10 pounds (or 
3 kilos; about a gallon of milk) or participate in high 
intensity physical activity (which includes intercourse) until 
you are cleared by your Urologist in follow-up.

-No DRIVING for THREE WEEKS or until you are cleared by your 
Urologist

-You may shower normally but do NOT immerse your nephrostomy 

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-You may be given “prescriptions” for a stool softener and/or a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-If you have fevers > ___ F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.

-PERCUTANEOUS NEPHROSTOMY (PCN) 

-Please refer to the provided nursing instructions and handout 
on PCN care, waste elimination, dressing changes. 

PERCUTANEOUS NEPHROSTOMY (PCN) TUBE INSTRUCTIONS FOR CARE---FOR  
FAMILY:

Please leave PCN tube to external gravity drainage. 

Catheter flushing: If there are excessive blood clots or debris 
or thick urine within the connecting tubing, this can be gently 
flushed as needed to promote clearing. Use normal saline filled 
syringes provided by nursing.

Change every 3 days, if soiled/saturated, as needed: Gently 
cleanse around the skin entry site of the catheter with gentle 
soap w/ warm water. Dry and apply gauze dressing.

Catheter security: a) EVERYDAY you must check to be sure the 
catheter, the connecting tubing and the drainage bag are 
securely attached to the patient and are not kinked. b) If the 
catheter appears to be pulling "out", please notify 
Interventional Radiology. 

c) If the catheter pulls out, please notify Interventional 
Radiology within 8 hours. SAVE THE CATHETER for inspection--DO 
NOT throw
it away.

Call Interventional Radiology/Angio for ANY catheter related 
questions or problems. ___ or Fellow/Resident (pager# ___

 
Followup Instructions:
___